US07816391B2
A solution of Sodium hydroxide (1.056 mL, 2.11 mmol) was added in one portion to a stirred solution of N-adamantan-2-yl-1-(4-cyanophenyl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxamide (Intermediate#124) (250 mg, 0.60 mmol), in methanol (10 mL) under air. The resulting solution was stirred at 65° C. for 45 hours. The resulting mixture was evaporated to dryness and the residue dissolved in ice/water (25 mL) and the mixture was acidified with 2M HCl. The precipitate was collected by filtration, washed with water (25 mL) and dried under vacuum to afford 4-[4-(adamantan-2-ylcarbamoyl)-5-(trifluoromethyl)-1H-pyrazol-1-yl]benzoic acid (243 mg, 93%) as a white solid, which was used without further purification.

reactant | Sodium hydroxide | 2.11 mmol, 1.056 mL | [OH-].[Na+]
reactant | N-adamantan-2-yl-1-(4-cyanophenyl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxamide | 0.60 mmol, 250 mg | C12C(C3CC(CC(C1)C3)C2)NC(=O)C=2C=NN(C2C(F)(F)F)C2=CC=C(C=C2)C#N | C22H21F3N4O
reactant | methanol | 10 mL | CO | CH4O
product | 4-[4-(adamantan-2-ylcarbamoyl)-5-(trifluoromethyl)-1H-pyrazol-1-yl]benzoic acid | 243 mg, 93% | C12C(C3CC(CC(C1)C3)C2)NC(=O)C=2C=NN(C2C(F)(F)F)C2=CC=C(C(=O)O)C=C2 | C22H22F3N3O3
